US05698691
(5) N-[2-(2-chlorophenyl)-2-(2-nitro-5-chlorophenyl)ethyl]-N-(trifluoroacetyl)glycine methyl ester
To a solution of N-[2-(2-chlorophenyl)-2-(2-nitro-5-chlorophenyl)ethyl]glycine methyl ester (4.9 g) and pyridine (3.0 g) in dichloromethane (50 ml) was added trifluoroacetic anhydride (2.97 g), and the mixture was stirred for 10 minutes at room temperature. The solution was washed with a 1N aqueous solution of sodium hydroxide and a saturated aqueous saline solution, which was then dried over anhydrous sodium sulfate. The solvent was then distilled off, and the residue was purified by means of a silica-gel column chromatography (hexane:acetic acid ethyl ester=5:1 v/v as an eluent) to give 5.95 g of an oily compound.

reactant | N-[2-(2-chlorophenyl)-2-(2-nitro-5-chlorophenyl)ethyl]glycine methyl ester | 4.9 g | COC(CNCC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1=C(C=CC=C1)Cl)=O | C17H16Cl2N2O4
reactant | pyridine | 3.0 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 2.97 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[2-(2-chlorophenyl)-2-(2-nitro-5-chlorophenyl)ethyl]-N-(trifluoroacetyl)glycine methyl ester | 5.95 g | COC(CN(C(C(F)(F)F)=O)CC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1=C(C=CC=C1)Cl)=O | C19H15Cl2F3N2O5
